US06271411B1
Preparation of 2-( 1-naphtyl)-indene
20 ml of triethylarine, 2.2 g (20 mmole) of indene, 5.08 g (20 mmole) of 1-naphtyl-iodide and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under reflux for 10 h. After that the mixture was cooled to room temperature and evaporated. The residual oil was recrystallized from ethanol and dried under vacuum to obtain 1.5 g (31%) of the product.

reactant | indene | 20 mmole, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | 1-naphtyl-iodide | 20 mmole, 5.08 g | C1(=CC=CC2=CC=CC=C12)I | C10H7I
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-( 1-naphtyl)-indene | 1.5 g, 31% | C1(=CC=CC2=CC=CC=C12)C=1CC2=CC=CC=C2C1 | C19H14
